US05225207
Bicyclo[3.2.1]octan-2-one (30 g) is dissolved in ethanol (300 cc) and a solution of potassium cyanide (18.2 g) and ammonium chloride (13.9 g) in water (300 cc) is added. After stirring for 6 days at 20° C., the ethanol is concentrated under reduced pressure (5.2 kPa) and the aqueous phase is extracted with diethyl ether (5×200 cc). The ethereal phase is washed with water (2×50 cc), dried over sodium sulphate and concentrated under reduced pressure (5.2 kPa) to a volume of 400 cc. Hydrogen chloride gas is then bubbled through the solution until it is saturated. The precipitate formed is drained, washed with diethyl ether (3×25 cc) and dried under reduced pressure (2.5 kPa). 2-Amino-2-cyano-bicyclo[3.2.1]octane hydrochloride (13.25 g) is thus obtained, as a mixture of the exo and endo racemates in a ratio of (8/1), in the form of fine white crystals which melt with decomposition at 202°-5° C.

reactant | Bicyclo[3.2.1]octan-2-one | 30 g | C12C(CCC(CC1)C2)=O | C8H12O
reactant | potassium cyanide | 18.2 g | [C-]#N.[K+]
reactant | ammonium chloride | 13.9 g | [Cl-].[NH4+]
solvent | ethanol | 300 cc | C(C)O | C2H6O
solvent | water | 300 cc | O | H2O
product | 2-Amino-2-cyano-bicyclo[3.2.1]octane hydrochloride | 13.25 g | Cl.NC1(C2CCC(CC1)C2)C#N | InChI=1S/C9H14N2.ClH/c10-6-9(11)4-3-7-1-2-8(9)5-7;/h7-8H,1-5,11H2;1H
